US04861785
A mixture of 4.4 parts of 1-chloro-3-(4-chlorobutoxy)benzene, 3.7 parts of N-methyl-N-(4-piperidinyl)-2-benzothiazolamine, 2.1 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred for 24 hours at 60° C. The reaction mixture was cooled and poured onto water. The product was extracted with methylbenzene. The extract was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (Z)-2-butenedioate salt in 2-propanone. The salt was filtered off and dried, yielding 4 parts (49%) of N-[1-[4-(3-chlorophenoxy)butyl]-4-piperidinyl]-N-methyl-2-benzothiazolamine (Z)-2-butenedioate (1:1); mp. 138.6° C. (1).

reactant | 1-chloro-3-(4-chlorobutoxy)benzene | ClC1=CC(=CC=C1)OCCCCCl | C10H12Cl2O
reactant | N-methyl-N-(4-piperidinyl)-2-benzothiazolamine | CN(C=1SC2=C(N1)C=CC=C2)C2CCNCC2 | C13H17N3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[1-[4-(3-chlorophenoxy)butyl]-4-piperidinyl]-N-methyl-2-benzothiazolamine (Z)-2-butenedioate | 49% | C(\C=C/C(=O)O)(=O)O.ClC=1C=C(OCCCCN2CCC(CC2)N(C=2SC3=C(N2)C=CC=C3)C)C=CC1 | InChI=1S/C23H28ClN3OS.C4H4O4/c1-26(23-25-21-9-2-3-10-22(21)29-23)19-11-14-27(15-12-19)13-4-5-16-28-20-8-6-7-18(24)17-20;5-3(6)1-2-4(7)8/h2-3,6-10,17,19H,4-5,11-16H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
